US07985753B2
2-(6-Chloro-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-1-methyl-1,2,3,4-tetrahydro-isoquinoline-5-carboxylic acid dimethylamide
In close analogy to the procedure described in Example 1, 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 1-Methyl-1,2,3,4-tetrahydro-isoquinoline-5-carboxylic acid dimethylamide to provide the title compound in moderate yield.

reactant | 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | 1-Methyl-1,2,3,4-tetrahydro-isoquinoline-5-carboxylic acid dimethylamide | CN(C(=O)C=1C=2CCNC(C2C=CC1)C)C | C13H18N2O
product | 2-(6-Chloro-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-1-methyl-1,2,3,4-tetrahydro-isoquinoline-5-carboxylic acid dimethylamide | CN(C(=O)C=1C=2CCN(C(C2C=CC1)C)C(=O)C1=NN2C(N=CC(=C2)Cl)=C1)C | C20H20ClN5O2
